US05885967
C) Preparation of Cbz-D-hPro-N(CH2CH2CH2COOBn)-Gly-O-t-Bu
To a solution of Cbz-D-hPro-N(CH2CH2CH2COOEt)Gly-O-t-Bu (7.4 g, 15 mmol) in dioxane (200 mL) was added a solution of LiOH (0.8 g, 19 mmol) in H2O (100 mL). The mixture was allowed to stir for 2 hours at room temperature and was then concentrated to a volume of 10 mL. The residue was diluted to 100 mL with H2O and washed with diethyl ether. The aqueous layer was acidified to pH 3 with 5N HCl and then was extracted twice with ethyl acetate (50 mL). The organic layer was dried (MgSO4) and concentrated in vacuo to give a colorless oil. The oil was dissolved in dichloromethane and to this solution was added benzyl alcohol (2.5 mL, 23 mmol), dimethylaminopyridine (1.8 g, 15 mmol) and dicyclohexylcarbodiimide (3.1 g, 15 mmol). After stirring for 16 hours at room temperature, a white precipitate was removed by filtration and the filtrate was concentrated in vacuo. The residue was chromatographed over silica gel, eluting with a step gradient of hexanes through 50% ethyl acetate/hexanes. Fractions containing product (based on TLC) were combined and concentrated to give 6.1 g (74%) of a colorless oil.

reactant | Cbz-D-hPro-N(CH2CH2CH2COOEt)Gly-O-t-Bu | 15 mmol, 7.4 g | N1([C@@H](C(=O)N(CC(=O)OC(C)(C)C)CCCC(=O)OCC)CCCC1)C(=O)OCC1=CC=CC=C1 | C26H38N2O7
reactant | LiOH | 19 mmol, 0.8 g | [Li+].[OH-]
reactant | benzyl alcohol | 23 mmol, 2.5 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | dimethylaminopyridine | 15 mmol, 1.8 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dicyclohexylcarbodiimide | 15 mmol, 3.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 100 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | Cbz-D-hPro-N(CH2CH2CH2COOBn)-Gly-O-t-Bu | 6.1 g, 74% | N1([C@@H](C(=O)N(CC(=O)OC(C)(C)C)CCCC(=O)OCC2=CC=CC=C2)CCCC1)C(=O)OCC1=CC=CC=C1 | C31H40N2O7
